US06841560B2
4-Oxochroman-6-carboxylic acid
3-(4-Carboxyphenoxy)propionic acid (2.5 g) [prepared according to the procedure of J. Lichtenberger and R. Geyer. Bull. Soc. Chim. Fr., 1963 275] in conc. sulfuric acid (20 ml) was heated to 100° C. for 4 h and then poured onto crushed ice. The resultant precipitate was filtered and dried in vacuo to give the title compound (1.6 g).

reactant | 3-(4-Carboxyphenoxy)propionic acid | 2.5 g | C(=O)(O)C1=CC=C(OCCC(=O)O)C=C1 | C10H10O5
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Oxochroman-6-carboxylic acid | 1.6 g | O=C1CCOC2=CC=C(C=C12)C(=O)O | C10H8O4
